US06720320B2
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 4-(4-methoxybenzo(b)furan-2-yl)-2-methylthiazole (2.7 g) obtained in Starting Material Synthesis Example 67 and boron tribromide (7.5 g), 4-(4-hydroxybenzo(b)furan-2-yl)-2-methylthiazole (2.0 g) was obtained as yellow crystals. By the reactions in the same manner as in Starting Material Synthesis Example 2 using this compound, (S)-glycidyl nosylate (2.9 g) and potassium carbonate (3.1 g), (S)-4-(4-glycidyloxybenzo(b)furan-2-yl)-2-methylthiazole (2.1 g) was obtained as a brown oil. By the reactions in the same manner as in Example 1 using the brown oil and 4-(naphthalen-2-yl)piperidine (1.5 g), the title compound (0.3 g) was obtained as white crystals, melting point 148-150° C.

reactant | 4-(4-methoxybenzo(b)furan-2-yl)-2-methylthiazole | 2.7 g | COC1=CC=CC=2OC(=CC21)C=2N=C(SC2)C | C13H11NO2S
reactant | boron tribromide | 7.5 g | B(Br)(Br)Br | BBr3
product | 4-(4-hydroxybenzo(b)furan-2-yl)-2-methylthiazole | 2.0 g | OC1=CC=CC=2OC(=CC21)C=2N=C(SC2)C | C12H9NO2S
